US07378404B2
8β-methyl-estra-1,3,5(10)-triene-3,17β-diol (8b)
74 mg of 3-methoxy-8β-methyl-estra-1,3,5(10)-trien-17β-ol was dissolved in 3 ml of anhydrous toluene, cooled to 0° C. and mixed carefully under argon with 0.6 ml of DIBAH. The reaction mixture was slowly refluxed, and it was kept at this temperature for 3.5 hours. Then, it was cooled again to 0° C., the solution was mixed in succession with 2 ml of ethanol, 2 ml of ethanol-water mixture (v/v=1/1) and 2 ml of semi-concentrated hydrochloric acid and extracted several times with ethyl acetate. The collected organic phases were washed neutral with water, dried with magnesium sulfate and evaporated to the dry state in a vacuum. 70 mg (99%) of colorless crystals with a melting point of 168-170° C. was obtained.

reactant | 3-methoxy-8β-methyl-estra-1,3,5(10)-trien-17β-ol | 74 mg | COC1=CC=2CC[C@]3([C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C2C=C1)O)C | C20H28O2
reactant | DIBAH | 0.6 ml | CC(C)C[AlH]CC(C)C
reactant | ethanol | 2 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol water | 2 ml | C(C)O.O
product | 8β-methyl-estra-1,3,5(10)-triene-3,17β-diol | 70 mg, 99% | C[C@@]12[C@@H]3CC[C@@H]([C@@]3(C)CC[C@@H]2C=2C=CC(=CC2CC1)O)O | C19H26O2
